US04094741
Further, the same large scale reaction as in Example 10 was repeated except that DL-5-(3-chlorophenyl)hydantoin and Agrobacterium rhizogenes IFO 13259 were employed instead of DL-5-(4-chlorophenyl)hydantoin and Pseudomonas chlororaphis IFO 3904, respectively. From 1.0 g. of DL-5-(3-chlorophenyl)hydantoin 267 mg. of N-carbamoyl-2-(3-chlorophenyl)glycine was obtained.

reactant | DL-5 (3-chlorophenyl)hydantoin | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC=1C=C(C=CC1)N1C(=O)NC(=O)C1
reactant | DL-5 (4-chlorophenyl)hydantoin | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=CC=C(C=C1)N1C(=O)NC(=O)C1
reactant | DL-5 (3-chlorophenyl)hydantoin | 267 mg | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC=1C=C(C=CC1)N1C(=O)NC(=O)C1
product | N-carbamoyl-2-(3-chlorophenyl)glycine | C(N)(=O)NC(C(=O)O)C1=CC(=CC=C1)Cl | C9H9ClN2O3
